US07214824B2
24(b): N-(4-Bromo-2,6-difluorophenyl)methanesulfonamide
A mixture of N-(4-bromo-2,6-difluorophenyl)-N-(methylsulfonyl)methanesulfonamide (2.20 g, 6.04 mmol) and sodium hydroxide (pellet) (1.20 g, 30.0 mmol) in tetrahydrofuran. (30 ml) and water (10 ml) was stirred for 2 hours at ambient temperature. After the solvent was evaporated in vacuo and the residue was acidified to pH 2 with 2M hydrochloride aqueous solution. The aqueous solution was extracted with ethyl acetate and the combined solution was washed with brine, dried over sodium sulfate. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was recrystallized from ethyl acetate and hexane to furnish 1.55 g (90% yield) of the title compound as a white solid.

reactant | N-(4-bromo-2,6-difluorophenyl)-N-(methylsulfonyl)methanesulfonamide | 6.04 mmol, 2.20 g | BrC1=CC(=C(C(=C1)F)N(S(=O)(=O)C)S(=O)(=O)C)F | C8H8BrF2NO4S2
reactant | sodium hydroxide | 30.0 mmol, 1.20 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(4-Bromo-2,6-difluorophenyl)methanesulfonamide | 1.55 g, 90% yield | BrC1=CC(=C(C(=C1)F)NS(=O)(=O)C)F | C7H6BrF2NO2S
